US08865725B2
2-Chloromethyl-6-(4-fluoro-phenyl)-7-methyl-6H-imidazo[1,2-c]pyrimidin-5-one was prepared from 4-amino-6-methyl-1H-pyrimidin-2-one and 4-fluorophenylboronic acid using the methods as described above for the preparation of 4-amino-1-(4-fluoro-phenyl)-1H-pyrimidin-2-one and 2-chloromethyl-6-(4-fluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one.

reactant | 4-amino-6-methyl-1H-pyrimidin-2-one | NC1=NC(NC(=C1)C)=O | C5H7N3O
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 4-amino-1-(4-fluoro-phenyl)-1H-pyrimidin-2-one | NC1=NC(N(C=C1)C1=CC=C(C=C1)F)=O | C10H8FN3O
reactant | 2-chloromethyl-6-(4-fluoro-phenyl)-6H-imidazo[1,2-c]pyrimidin-5-one | ClCC=1N=C2N(C(N(C=C2)C2=CC=C(C=C2)F)=O)C1 | C13H9ClFN3O
product | 2-Chloromethyl-6-(4-fluoro-phenyl)-7-methyl-6H-imidazo[1,2-c]pyrimidin-5-one | ClCC=1N=C2N(C(N(C(=C2)C)C2=CC=C(C=C2)F)=O)C1 | C14H11ClFN3O
